US06576762B2
4-Hydroxy-4′-o-tolyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide
A mixture of 10.0 g (20.5 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide, 3.1 g (31 mmol) 4-hydroxypiperidine, 10.6 ml (62 mmol) N-ethyldiisopropylamine and 0.13 g (1.0 mmol) 4-(N,N-dimethylamino)-pyridine was stirred at 140° C. for 70 h. After cooling to room temperature the residue was dissolved in a mixture of dichloromethane and water. The layers were separated and the aqueous layer was extracted with four portions of dichloromethane. The combined organic extracts were dried with sodium sulfate and concentrated to give 11.1 g of crude product. Flash chromatography afforded 9.0 g (80%) of the title compound as a white solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide | 20.5 mmol, 10.0 g | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)Cl)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17ClF6N2O
reactant | 4-hydroxypiperidine | 31 mmol, 3.1 g | OC1CCNCC1 | C5H11NO
reactant | N-ethyldiisopropylamine | 62 mmol, 10.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
catalyst | 4-(N,N-dimethylamino)-pyridine | 1.0 mmol, 0.13 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-Hydroxy-4′-o-tolyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 9.0 g, 80% | FC(C=1C=C(CN(C(=O)C=2C(=CC(=NC2)N2CCC(CC2)O)C2=C(C=CC=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H27F6N3O2
